US07105680B1
Production of 5-methoxy-2-methoxymethoxybenzaldehyde (F1)
To a solution of 2-hydroxy-5-methoxybenzaldehyde (10 g, 67.5 mmol) and diisopropylethylamine (14 mL, 80 mmol) in CH2Cl2 (100 mL) was added chloromethyl methyl ether (6.1 mL, 80 mmol) at 0° C., and the mixture was stirred for 15 hours at room temperature. Then, water was added to the solution, the aqueous layer was extracted with CH2Cl2 (100 mL×3). The combined organic layer was washed with saturated aqueous NaCl (100 mL×2), water (100 mL×1), dried over MgSO4, and evaporated to afford the objective compound as a brown oil (11.76 g, 91%), which was used for next reaction without further purification: 1H-NMR (400 MHz, CDCl3) δ3.52 (s, 3H), 3.81 (s, 3H), 5.24 (s, 2H), 7.12 (dd, 1H, J=9.6, 3.2 Hz), 7.18 (d, 1H, J=9.6 Hz), 7.32 (d, 1H, J=3.2 Hz), 10.47 (s, 1H).

reactant | 2-hydroxy-5-methoxybenzaldehyde | 67.5 mmol, 10 g | OC1=C(C=O)C=C(C=C1)OC | C8H8O3
reactant | diisopropylethylamine | 80 mmol, 14 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | chloromethyl methyl ether | 80 mmol, 6.1 mL | COCCl | C2H5ClO
reactant | water | O | H2O
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 5-methoxy-2-methoxymethoxybenzaldehyde | 11.76 g, 91% | COC=1C=CC(=C(C=O)C1)OCOC | C10H12O4
